US08247401B2
Step C: 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylic acid
To a solution of tert-butyl 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylate (1.03 g, 2.79 mmol) in dichloromethane (5.6 mL) was added trifluoroacetic acid (5.4 mL). The mixture was stirred at ambient temperature. After 48 h, the mixture was concentrated to dryness to give the title compound (0.85 g). MS 315.0 (M+1).

reactant | tert-butyl 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylate | 2.79 mmol, 1.03 g | FC(C(O)C=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)F | C19H18F4O3
reactant | trifluoroacetic acid | 5.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.6 mL | ClCCl | CH2Cl2
product | 5-(2,2-difluoro-1-hydroxyethyl)-2′,4′-difluorobiphenyl-3-carboxylic acid | 0.85 g | FC(C(O)C=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)C(=O)O)F | C15H10F4O3
